US07842701B2
3-amino-2-(2-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 3-amino-5-(4-methoxybenzyl)-2-(2-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (370 mg), anisole (2 ml), trifluoroacetic acid (5 ml) and trifluoromethanesulfonic acid (1 ml) was stirred at room temperature for 3.5 hours. The mixture was concentrated under reduced pressure. To the mixture was added 5% sodium carbonate to adjust pH to about 9. Ethyl acetate was added to the mixture. An insoluble solid was collected by filtration, washed with water and ethyl acetate, and dried to obtain the target compound (250 mg).

reactant | 3-amino-5-(4-methoxybenzyl)-2-(2-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 370 mg | NC=1N(N=C2C1C(N(C=1C=CC=CC21)CC2=CC=C(C=C2)OC)=O)C2=C(C=CC=C2)OC | C25H22N4O3
reactant | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoromethanesulfonic acid | 1 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 3-amino-2-(2-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 250 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C2=C(C=CC=C2)OC | C17H14N4O2
